### PR TITLE
[Merged by Bors] - RFC/chore(Algebra/GCDMonoid): should we un-`@[simp]` normalize_apply?

### PR DESCRIPTION
**Pull request by Vierkantor**
The lemma `normalize_apply` feels to me like it exposes the implementation detail that `normalize` is defined in terms of `normUnit`. I think the `normalize` function itself is much more familiar so it doesn't really seem like a simplification to insert `normUnit` instead. Indeed there are quite a few `simp [-normalize_apply]` in Mathlib.

Moreover, there were some `simp` lemmas about `normalize` that had to be given higher priority since e.g. `normalize (a * b) = normalize a * normalize b` but `normUnit (a * b)` does not necessarily equal `normUnit a * normUnit b`.

A few downstream fixes are needed where a `@[simp]` lemma is proved for `normUnit` and not for `normalize`, otherwise everything goes very smoothly.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Algebra/Polynomial/FieldDivision.lean [hunk 1]
```diff
@@ -524,7 +525,8 @@ theorem coe_normUnit_of_ne_zero [DecidableEq R] (hp : p ≠ 0) :
   have : p.leadingCoeff ≠ 0 := mt leadingCoeff_eq_zero.mp hp
   simp [CommGroupWithZero.coe_normUnit _ this]
 
-theorem normalize_monic [DecidableEq R] (h : Monic p) : normalize p = p := by simp [h]
+theorem normalize_monic [DecidableEq R] (h : Monic p) : normalize p = p :=
+  h.normalize_eq_self
```
Comment (Vierkantor) [inline Mathlib/Algebra/Polynomial/FieldDivision.lean:529]: Note that `normalize_monic` and `Monic.normalize_eq_self` are exactly identical.

File: Mathlib/Algebra/GCDMonoid/Basic.lean [hunk 2]
```diff
@@ -116,21 +116,16 @@ theorem normalize_associated_iff {x y : α} : Associated (normalize x) y ↔ Ass
...
 
--- Porting note (#10618): `simp` can prove this
--- @[simp]
 theorem normalize_zero : normalize (0 : α) = 0 :=
   normalize.map_zero
 
--- Porting note (#10618): `simp` can prove this
--- @[simp]
 theorem normalize_one : normalize (1 : α) = 1 :=
   normalize.map_one
```
Comment (Ruben-VandeVelde) [inline Mathlib/Algebra/GCDMonoid/Basic.lean:126]: Can simp still prove these? LGTM otherwise

File: Mathlib/Algebra/Polynomial/FieldDivision.lean (hunk 1 above)
Comment (jcommelin) [reply Mathlib/Algebra/Polynomial/FieldDivision.lean:529]: Should one become an alias of the other? Or even deprecated?

Comment (Vierkantor) [reply Mathlib/Algebra/Polynomial/FieldDivision.lean:529]: I agree there should be at least an `alias` set up, but there's enough bikeshedding in there that I wanted to postpone the specifics to another PR :)

Comment (Vierkantor) [reply Mathlib/Algebra/Polynomial/FieldDivision.lean:529]: I picked `normalize_monic` to become a deprecated alias, mostly arbitrarily. Please bikeshed, if desired, at #18024 :)

**Review by jcommelin — COMMENTED** [review]
Thanks :tada:

bors merge

**Comment by bryangingechen** [comment]
It may be too late now, but I'm guessing we didn't intend to merge this with the RFC title as is?

**Comment by jcommelin** [comment]
> It may be too late now, but I'm guessing we didn't intend to merge this with the RFC title as is?

Whoops, sorry!
